US07705024B2
Preparation of 5-(5-bromo-selenophen-2-yl)-1-(2,4-dichloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester
NBS (1.6 g, 9.34 mmol) was added in several small portions to a magnetically stirred solution of 1-(2,4-dichloro-phenyl)-4-methyl-5-selenophen-2-yl-1H-pyrazole-3-carboxylic acid ethyl ester (2.0 g, 4.67 mmol) in acetonitrile at 0° C. The resulting mixture was stirred at room temperature for 48 h. The precipitate was filtered out, washed with saturated aqueous sodium sulfite and cold water, and then dried under vacuum to give the desired compound (2.2 g, 92%) as a white solid.

reactant | NBS | 9.34 mmol, 1.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 1-(2,4-dichloro-phenyl)-4-methyl-5-selenophen-2-yl-1H-pyrazole-3-carboxylic acid ethyl ester | 4.67 mmol, 2.0 g | C(C)OC(=O)C1=NN(C(=C1C)C=1[Se]C=CC1)C1=C(C=C(C=C1)Cl)Cl | C17H14Cl2N2O2Se
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(5-bromo-selenophen-2-yl)-1-(2,4-dichloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | 2.2 g, 92% | C(C)OC(=O)C1=NN(C(=C1C)C=1[Se]C(=CC1)Br)C1=C(C=C(C=C1)Cl)Cl | C17H13BrCl2N2O2Se
